US07411072B2
2-Chloro-5-(2-trifluoromethyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Following procedures essentially as described in Example 219, below, and using 2-(trifluoromethyl)phenylboronic acid (59 mg, 0.31 mmol) and 5-bromomethylene-2-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (91 mg, 0.28 mmol) provides 97 mg (90%) title compound. GC/MS data: retention times in minutes (MS data for M+.ion): 18.19 (384), 18.38(384)Mass Spec (EI+) 384

reactant | 2-(trifluoromethyl)phenylboronic acid | 0.31 mmol, 59 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 5-bromomethylene-2-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.28 mmol, 91 mg | BrC=C1C2=C(CCC3=C1C=CC(=C3)Cl)C=CC=C2 | C16H12BrCl
product | 2-Chloro-5-(2-trifluoromethyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 97 mg, 90% | ClC1=CC2=C(C(C3=C(CC2)C=CC=C3)=CC3=C(C=CC=C3)C(F)(F)F)C=C1 | C23H16ClF3
